US04772606
N,N'-[6,9-dihydro-6-oxo-9-(2-thienylmethyl)-1H-purin-2,8-di-yl]bis acetamide
A mixture of 8-amino-9-[(2-thienyl)methyl]guanine (0.5 g; 1.88 mmol), DMF (10 ml), pyridine (5 ml), and acetic anhydride (5 ml) was stirred at room temperature for 36 hours. The mixture was diluted with ether (50 ml) and filtered to give analytically pure product, mp 243°-4° C.

reactant | 8-amino-9-[(2-thienyl)methyl]guanine | 1.88 mmol, 0.5 g | NC=1N(C=2N=C(NC(C2N1)=O)N)CC=1SC=CC1 | C10H10N6OS
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ether | 50 ml | CCOCC | C4H10O
product | N,N'-[6,9-dihydro-6-oxo-9-(2-thienylmethyl)-1H-purin-2,8-di-yl]bis acetamide | O=C1C=2N=C(N(C2N=C(N1)NC(C)=O)CC=1SC=CC1)NC(C)=O | C14H14N6O3S
